US07763638B2
1. Synthesis of N-[2-(3,4-dimethoxy-phenyl)-ethyl]-3-(4-trifluoromethyl-phenyl)-propionamide
This compound is prepared by reaction of 3,4-dimethoxyphenylethylamine and 4-(trifluoromethyl)-hydrocinnamic acid.

reactant | 3,4-dimethoxyphenylethylamine | COC=1C=C(C=CC1OC)CCN | C10H15NO2
reactant | 4-(trifluoromethyl)-hydrocinnamic acid | FC(C1=CC=C(CCC(=O)O)C=C1)(F)F | C10H9F3O2
product | N-[2-(3,4-dimethoxy-phenyl)-ethyl]-3-(4-trifluoromethyl-phenyl)-propionamide | COC=1C=C(C=CC1OC)CCNC(CCC1=CC=C(C=C1)C(F)(F)F)=O | C20H22F3NO3
